US08604015B2
Quinuclidine-3-carboxylic acid hydrochloride (95 mg, 0.50 mmol), EDC (143 mg, 0.74 mmol), HOBT (114 mg, 0.74 mmol), and triethylamine (242 μl, 1.73 mmol) were dissolved in dry THF (5 ml). (3-Fluorophenyl)methanol (68.8 mg, 0.54 mmol) was dissolved in dry THF (2 ml) and added to the reaction mixture. The resulting reaction was stirred at room temperature overnight. The volatiles were evaporated, and the crude was taken up with EtOAc and washed with water and then with sat. NaHCO3. The organic phase was separated, dried over sodium sulfate, filtered, and evaporated under vacuum to obtain 3-fluorobenzyl quinuclidine-3-carboxylate (120 mg, racemic mixture). The compound was used in the next step without any further purification.

reactant | Quinuclidine-3-carboxylic acid hydrochloride | 0.50 mmol, 95 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 0.74 mmol, 143 mg
reactant | HOBT | 0.74 mmol, 114 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.73 mmol, 242 μl | C(C)N(CC)CC | C6H15N
reactant | (3-Fluorophenyl)methanol | 0.54 mmol, 68.8 mg | FC=1C=C(C=CC1)CO | C7H7FO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-fluorobenzyl quinuclidine-3-carboxylate | 120 mg | N12CC(C(CC1)CC2)C(=O)OCC2=CC(=CC=C2)F | C15H18FNO2
